US07723329B2
A solution of 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-ethanol (14.3 g, 36.9 mmol), p-toluenesulfonylchloride (14.9 g, 78.2 mmol) and triethylamine (23 mL, 170 mmol) in methylene chloride (400 mL) was stirred under nitrogen at ambient temperature for 2 hours, 45 minutes. The reaction mixture was then concentrated and partitioned in methylene chloride and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography with 25-75% ethyl acetate in hexane and 100% ethyl acetate. Drying for 25 minutes in vacuo at 80° C. yielded toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-ethyl ester as a rust-colored solid (15.7 g, 78.5%). Mass Spectrum (+EI, [M+H]+) m/z 542. 1HNMR (500 MHz, DMSO-d6): 88.53 (dd, 1H, J=8.18 Hz and 1.10 Hz), 8.31 (d, 1H, J=8.30 Hz), 8.09-8.11 (m, 1H), 7.94-7.99 (m, 2H), 7.62-7.75 (m, 5H), 7.42 (d, 2H, J=7.93 Hz), 6.98 (dd, 1H, J=9.15 Hz and 2.93 Hz), 6.80 (d, 1H, J=2.81 Hz), 5.20 (s, 2H), 4.28-4.30 (m, 2H), 4.10-4.12 (m, 2H), 2.37 ppm (s, 3H).

reactant | 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-ethanol | 36.9 mmol, 14.3 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(OCCO)C=CC1[N+](=O)[O-] | C19H17NO6S
reactant | p-toluenesulfonylchloride | 78.2 mmol, 14.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 170 mmol, 23 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-ethyl ester | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(OCCOS(=O)(=O)C2=CC=C(C=C2)C)C=CC1[N+](=O)[O-] | C26H23NO8S2
